US09034655B2
2.45 g (0.01 mmol) of 5-nitro-1H,3H-benzo[de]isochromene-1,3-dione and 1.23 g (0.01 mmol) of 6-aminohexanoic acid was alloyed with at 210-220° C. for 35 min. The obtained crude 6-(5-nitro-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinolin-2-yl)hexanoic acid was recrystallized from ethanol. Yield 1.7 g (48%). The product was dissolved in 50 mL of ethanol and was added dropwise to the hot solution of 8 g of tin chloride in 9 mL of hydrochloric acid at boiling. The reaction mixture was boiled for 4 h, then poured with water and neutralized with 5% solution of sodium hydrate. Yellow sediment was filtered and purified by a column chromatography (Silica gel, chloroform). Yield 1.1 g of ethyl 6-(5-amino-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinolin-2-yl)hexanoate (31.5% counting on 5-nitro-1H,3H-benzo[de]isochromene-1,3-dione). M.P. 108-110° C.

reactant | 5-nitro-1H,3H-benzo[de]isochromene-1,3-dione | 0.01 mmol, 2.45 g | [N+](=O)([O-])C=1C=C2C3=C(C(OC(C3=CC=C2)=O)=O)C1 | C12H5NO5
reactant | 6-aminohexanoic acid | 0.01 mmol, 1.23 g | NCCCCCC(=O)O | C6H13NO2
product | 6-(5-nitro-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinolin-2-yl)hexanoic acid | [N+](=O)([O-])C=1C=C2C3=C(C(N(C(C3=CC=C2)=O)CCCCCC(=O)O)=O)C1 | C18H16N2O6
